US05834494
1-Acetyl-6-chloro-5-iodoindoline (D60)
1-Acetyl-6-chloroindoline (0.3 g, 1.53 mmol) and iodine monochloride (2.48 g, 15.3 mmol) in acetic acid (25 ml) were heated under reflux for 48 hours. After cooling the mixture was partitioned between ethyl acetate and 10% aqueous NaOH. The organic extract was washed with aqueous Na2 SO3 dried (Na2SO4) & evaporated to dryness under reduced pressure. Chromatography on silica gel using dichloromethane afforded the title compound (0.19 g, 39%).

reactant | 1-Acetyl-6-chloroindoline | 1.53 mmol, 0.3 g | C(C)(=O)N1CCC2=CC=C(C=C12)Cl | C10H10ClNO
reactant | iodine monochloride | 15.3 mmol, 2.48 g | ICl | ClI
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-Acetyl-6-chloro-5-iodoindoline | 0.19 g, 39% | C(C)(=O)N1CCC2=CC(=C(C=C12)Cl)I | C10H9ClINO
